US08071595B2
To a stirred solution of 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (60 mg, 0.13 mmol) in DCM (5 mL) were added methane sulfonyl chloride (0.012 g, 0.15 mmol) and TEA (0.04 mL, 0.27 mmol) at 0° C. under N2 atmosphere. The reaction mixture was stirred at RT for 10 min. The reaction mixture diluted with water and extracted with DCM (2×10 mL). The combined organic layers were washed with water (2×5 mL), brine and dried over anhydrous Na2SO4. After filtration and evaporation, the crude material was purified by silica gel column chromatography to afford N-(4-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4,5-dihydrofuran-2-yl) phenyl)-N-(methylsulfonyl)methane sulfonamide (25 mg, 30%), as a white color solid. 1H NMR (500 MHz, CDCl3): δ 8.22 (d, J=8.5 Hz, 1H), 8.10 (d, J=7.9 Hz, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.80 (d, J=8.2 Hz, 2H), 7.74 (t, J=8.2 Hz, 1H), 7.70 (d, J=8.5 Hz, 1H), 7.56 (d, J=7.5 Hz, 1H), 7.28 (d, J=7.4 Hz, 2H), 7.12 (d, J=7.5 Hz, 2H), 7.08 (d, J=7.6 Hz, 2H), 5.42 (s, 2H), 3.42 (s, 6H), 1.58 (s, 6H). MS: [M+Na]: m/z=615.1, [M+H]: m/z=593.1. HPLC: 98.9% (RT-2.52 min), Column: Acquity BEH-C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), ACN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 0.13 mmol, 60 mg | NC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H24N2O3
reactant | methane sulfonyl chloride | 0.15 mmol, 0.012 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(4-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4,5-dihydrofuran-2-yl) phenyl)-N-(methylsulfonyl)methane sulfonamide | 25 mg, 30% | CC1(C(C(=C(O1)C1=CC=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C30H28N2O7S2
